US08664220B2
Step 4: N-{(1-Benzyl-1H-[1,2,3]triazol-4-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methyl}-methanesulfonamide
Prepared according to the procedure described in Example 40, Step 2, using N-{1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-prop-2-ynyl}-methanesulfonamide and benzyl azide.

reactant | N-{1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-prop-2-ynyl}-methanesulfonamide | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C#C)NS(=O)(=O)C | C14H13BrN2O3S
reactant | benzyl azide | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
product | N-{(1-Benzyl-1H-[1,2,3]triazol-4-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methyl}-methanesulfonamide | C(C1=CC=CC=C1)N1N=NC(=C1)C(NS(=O)(=O)C)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C21H20BrN5O3S
